US07902252B2
To a solution of methyl 4-(3-tert-butoxy-3-oxoprop-1-enyl)-1H-pyrrole-2-carboxylate (2.0 g, 7.96 mmol) in EtOAc (20 mL) under nitrogen was added 10% Pd/C. The flask was evacuated and refilled with hydrogen three times. The reaction mixture was stirred for 2 h. The catalyst was removed by filtration through Celite and the filtrate was concentrated to give methyl 4-(3-tert-butoxy-3-oxopropyl)-1H-pyrrole-2-carboxylate as a white solid (2.02 g, 100%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.43 (s, 9H), 2.48 (t, J=7.59 Hz, 2H), 2.77 (t, J=7.54 Hz, 2H), 3.84 (s, 3H), 6.77 (dd, J=2.37, 1.93 Hz, 2H), 930 (br s, 1H); LCMS-MS (ESI+) 198.2 (M-isobutylene).

reactant | methyl 4-(3-tert-butoxy-3-oxoprop-1-enyl)-1H-pyrrole-2-carboxylate | 7.96 mmol, 2.0 g | C(C)(C)(C)OC(C=CC=1C=C(NC1)C(=O)OC)=O | C13H17NO4
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | methyl 4-(3-tert-butoxy-3-oxopropyl)-1H-pyrrole-2-carboxylate | 2.02 g, 100% | C(C)(C)(C)OC(CCC=1C=C(NC1)C(=O)OC)=O | C13H19NO4
